US08198457B2
To a solution of 2-bromo-5-[(2-fluoro-4-iodophenyl)amino]isonicotinic acid (145.0 mg, 0.33 mmol) in N,N-dimethylformamide (1.50 ml), 1,1′-carbonylbis(1H-imidazole) (60 mg, 0.36 mmol) was added, and the mixture was stirred at room temperature for 7 hours to obtain a homogeneous solution. Ammonium acetate (65 mg, 0.83 mmol) was added, and stirred for 2 h. Water (10 ml) was added, and the precipitated solid was filtered, washed with hot methanol to obtain 2-Bromo-5-(2-fluoro-4-iodo-phenylamino)-isonicotinamide as an yellow solid (85 mg, 58%) LC/MS: [9.59 min; 436, 438]

reactant | 2-bromo-5-[(2-fluoro-4-iodophenyl)amino]isonicotinic acid | 0.33 mmol, 145.0 mg | BrC=1C=C(C(=O)O)C(=CN1)NC1=C(C=C(C=C1)I)F | C12H7BrFIN2O2
reactant | 1,1′-carbonylbis(1H-imidazole) | 0.36 mmol, 60 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Ammonium acetate | 0.83 mmol, 65 mg | C(C)(=O)[O-].[NH4+]
reactant | Water | 10 ml | O | H2O
solvent | N,N-dimethylformamide | 1.50 ml | CN(C=O)C | C3H7NO
product | 2-Bromo-5-(2-fluoro-4-iodo-phenylamino)-isonicotinamide | 85 mg, 58% | BrC=1C=C(C(=O)N)C(=CN1)NC1=C(C=C(C=C1)I)F | C12H8BrFIN3O
